US05122523
(2R)-3-benzyloxy-2-(1-naphthylmethyl)propionic acid was dissolved in 6 ml of THF, and 3 ml of cyclohexene, 2.5 ml of 1N hydrochloric acid and 400 mg of 10% palladium carbon were added thereto. The mixture was refluxed under heating for 48 hours. After filtration, the solvent was distilled off under reduced pressure, and the residue was divided with ethyl acetate and a 4% sodium hydrogencarbonate aqueous solution. The aqueous layer was adjusted to pH2 with 1N hydrochloric acid under cooling with ice and extracted with ethyl acetate. The ethyl acetate layer was washed sequentially with water and a saturated sodium chloride aqueous solution and dried over anhydride sodium sulfate to obtain 212 mg of (2R)-3-hydroxy-2-(1-naphthylmethyl)propionic acid as colorless oily substance.

reactant | (2R)-3-benzyloxy-2-(1-naphthylmethyl)propionic acid | C(C1=CC=CC=C1)OC[C@H](C(=O)O)CC1=CC=CC2=CC=CC=C12 | C21H20O3
reactant | cyclohexene | 3 ml | C1=CCCCC1 | C6H10
reactant | hydrochloric acid | 1N, 2.5 ml | Cl | ClH
solvent | THF | 6 ml | C1CCOC1 | C4H8O
catalyst | palladium carbon | 400 mg | [C].[Pd]
product | (2R)-3-hydroxy-2-(1-naphthylmethyl)propionic acid | 212 mg | OC[C@H](C(=O)O)CC1=CC=CC2=CC=CC=C12 | C14H14O3
